US07504508B2
N-(4-chlorophenyl)-2-hydroxy-N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide was made following general procedure G, substituting 4-methoxybenzoyl chloride for 4-fluorobenzoyl chloride. Procedure A was followed further substituting acetoxyacetylchloride for acetyl chloride in the last step to yield 2-{(4-chlorophenyl)[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]amino}-2-oxoethyl acetate.

reactant | N-(4-chlorophenyl)-2-hydroxy-N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide | ClC1=CC=C(C=C1)N(C(CO)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C26H25ClN2O4
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 2-{(4-chlorophenyl)[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]amino}-2-oxoethyl acetate | C(C)(=O)OCC(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C)C1=CC=C(C=C1)Cl | C28H27ClN2O5
